US04728571
In a glass reaction bottle was placed 19.0 g butyl methacrylate, 1.0 g acrylic acid, 30 g of ethyl acetate, and 0.06 g of 2,2'-azobis(isobutyronitrile) free radical initiator available under the trade designation "VAZO" 64 from the E. I. DuPont Company. The reaction bottle was purged with nitrogen and sealed. It was placed in a 55° C. bath and tumbled therein for 60 hours to produce a polymer which had an inherent viscosity of 0.58 dl/g. The resulting polymer solution was diluted with 50 g ethyl acetate and knife coated onto a 37 micrometer polyester film to provide a dry coating thickness of 10 micrometers. The coated film was equilibrated for 16 hours and thereafter tested under constant temperature and humidity. Test results for adhesion of an acrylic PSA (Tape A) and a tackified styrene isoprene block copolymer PSA (Tape B) are shown in Table IV.

reactant | butyl methacrylate | 19.0 g | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | acrylic acid | 1.0 g | C(C=C)(=O)O | C3H4O2
reactant | 2,2'-azobis(isobutyronitrile) | 0.06 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | VAZO | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethyl acetate | 50 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 g | C(C)(=O)OCC | C4H8O2
product | styrene isoprene | C=CC(C)=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C5H8/c1-2-8-6-4-3-5-7-8;1-4-5(2)3/h2-7H,1H2;4H,1-2H2,3H3
